* inverter_buffer / single_inverter trip points vs corner, and the
* diff_amp_inv -> inverter_buffer chain at DC.  Question: at ff/125C/1.32V is
* the buffer trip below the ~0.60 V floor of clkraw (e2e_ff125_stages.log)?
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_ss
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib  cap_typ
.include ../netlists/blocks.inc
.temp -40
.global sub!
Vsub sub! 0 0
.global vcoarse!
Vcrs vcoarse! 0 1.08
VDD Vdd 0 1.08
Vin in 0 0
xb Vdd 0 in out inverter_buffer
.control
dc Vin 0 1.08 1m
meas dc trip WHEN v(out)=0.54 RISE=1
print trip
quit
.endc
.end
